US04042610
To a dark-green solution of 0.048 g (0.21 mmol) of vanadium tetrakis(dimethylamide) in hexane was added from a syringe 0.26 ml of a 1.6 M solution of butyllithium (0.21 mmol) in hexane. Lithium dimethylamide precipitated rapidly. The total volume of liquid in the mixture was about 6 ml. After 15 minutes the mixture was filtered to give a clear green solution of dibutylvanadium bis(dimethylamide) in hexane.

reactant | vanadium tetrakis(dimethylamide) | 0.21 mmol, 0.048 g | C[N-]C.C[N-]C.C[N-]C.C[N-]C.[V+4]
reactant | butyllithium | 0.21 mmol | C(CCC)[Li]
solvent | hexane | CCCCCC | C6H14
product | dibutylvanadium bis(dimethylamide) | C[N-]C.C[N-]C.C(CCC)[V+2]CCCC | InChI=1S/2C4H9.2C2H6N.V/c2*1-3-4-2;2*1-3-2;/h2*1,3-4H2,2H3;2*1-2H3;/q;;2*-1;+2
